US03984428
A solution of 3,5-dimethyl-4-(6-hydroxytetrahydropyran-2-ylethyl)-isoxazole, prepared as described in part B from 60.5 g. (0.294 mole) of racemic 3,5-dimethyl-4-(3,4-dihydro-2H-pyran-2-ylvinyl)-isoxazole, in 600 ml. of acetone was cooled in an ice bath as 400 ml. of Jones reagent was added dropwise over a 1.0 hr. period. The resulting suspension was stirred at room temperature overnight. Saturated sodium bisulfite solution was added to destroy the excess oxidizing agent and most of the acetone was removed at reduced pressure. The residue was diluted with water, saturated with sodium chloride, and extracted with ethyl acetate. The ethyl acetate solutions were washed with brine and then with excess saturated aqueous sodium bicarbonate solution. The sodium bicarbonate solutions were washed with ether, acidified with 3N hydrochloric acid, saturated with sodium chloride, and extracted with ethyl acetate. The ethyl acetate solutions were washed with brine and dried over anhydrous sodium sulfate. Solvent removal at reduced pressure gave a pale yellow resin. Crystallization of this material from ether gave two crops of racemic 7-(3,5-dimethyl-4 -isoxazolyl)-5-oxo-heptanoic acid as a fine white powder, m.p. 61.5°-63.5°.

reactant | 3,5-dimethyl-4-(6-hydroxytetrahydropyran-2-ylethyl)-isoxazole | CC1=NOC(=C1CCC1OC(CCC1)O)C | C12H19NO3
reactant | racemic 3,5-dimethyl-4-(3,4-dihydro-2H-pyran-2-ylvinyl)-isoxazole | 0.294 mole | CC1=NOC(=C1C=CC1OC=CCC1)C | C12H15NO2
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | racemic 7-(3,5-dimethyl-4 -isoxazolyl)-5-oxo-heptanoic acid | CC1=NOC(=C1CCC(CCCC(=O)O)=O)C | C12H17NO4
